US09120749B2
cyclopropyl(6-(3,5-dichloro-4-hydroxyphenyl)-4-((trans-4-(pyrrolidin-1-ylmethyl)cyclohexyl)amino)quinolin-3-yl)methanone
To a suspension of (6-bromo-4-((trans-4-(pyrrolidin-1-ylmethyl)cyclohexyl)amino)quinolin-3-yl)(cyclopropyl)methanone (46 mg, 0.10 mmol), 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (43 mg, 0.15 mmol) and Pd(dppf)Cl2 (11 mg, 0.015 mmol) in dioxane (4 mL) was added Cs2CO3 (1.0 M in H2O, 0.4 mL, 0.4 mmol). N2 gas was bubbled through the reaction mixture and the mixture was then heated at 80° C. for 2 h. The solution was allowed to cool to room temperature, then directly subjected to column chromatography (silica, 0-20% methanol/dichloromethane). The resultant residue was dissolved in ethyl acetate and washed with saturated sodium bicarbonate solution. The organic layer was dried over anhydrous sodium sulfate and concentrated to afford the desired product (22.1 mg, 41%) as a yellow solid. 1H NMR (500 MHz, MeOD) δ 9.09 (s, 1H), 8.28 (d, J=2.1 Hz, 1H), 7.97-7.91 (m, 1H), 7.84 (d, J=8.7 Hz, 1H), 7.55 (s, 2H), 4.19-4.10 (m, 1H), 3.14-3.07 (m, 4H), 2.89-2.78 (m, 3H), 2.31 (d, J=12.6 Hz, 5H), 2.04-1.97 (m, 4H), 1.83-1.79 (m, 1H), 1.57 (q, J=12.3 Hz, 4H), 1.32-1.04 (m, 6H). ESI MS m/z 538 [C30H33O2N3O2+H]+; HPLC>99% (AUC), tR=11.29 min.

reactant | (6-bromo-4-((trans-4-(pyrrolidin-1-ylmethyl)cyclohexyl)amino)quinolin-3-yl)(cyclopropyl)methanone | 0.10 mmol, 46 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)CN1CCCC1 | C24H30BrN3O
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.15 mmol, 43 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
reactant | Cs2CO3 | 0.4 mmol, 1.0 M, 0.4 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.015 mmol, 11 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | cyclopropyl(6-(3,5-dichloro-4-hydroxyphenyl)-4-((trans-4-(pyrrolidin-1-ylmethyl)cyclohexyl)amino)quinolin-3-yl)methanone | 22.1 mg, 41% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1N[C@@H]1CC[C@H](CC1)CN1CCCC1)C1=CC(=C(C(=C1)Cl)O)Cl | C30H33Cl2N3O2
